US08629137B2
Step 2: 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
Under a nitrogen atmosphere 0.21 g (9.3 mmol) sodium were added batchwise to 50 mL MeOH. After the sodium had dissolved completely, 1.0 g (3.1 mmol) of 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one were added and the mixture was refluxed for 5 h. Then the reaction mixture was evaporated down i. vac., the residue was combined with 50 mL water and the precipitated solid was suction filtered. This was washed with a little water and dried.

reactant | sodium | 9.3 mmol, 0.21 g | [Na] | Na
reactant | 6-(2,6-dichloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 3.1 mmol, 1.0 g | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C14H8Cl2N2O3
reactant | MeOH | 50 mL | CO | CH4O
product | 6-(2-chloro-6-methoxy-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)OC | C15H11ClN2O4
